US05021569
1-(4-Azatricyclo[4.3.1.1(3,8)]undec-4-yl)-3-[4-(2-pyrimidinyl)-1-piperazinyl]-1-propanone
A solution of 1-(4-azatricyclo[4.3.1.1(3,8)]undec-4-yl)-3-bromo-1-propanone (2.00 g, 6.99 mmol), 1-(2-pyrimidinyl)piperazine dihydrochloride (1.66 g, 7.00 mmol), diisopropylethylamine (3.6 mL, 21 mmol) in anhydrous dimethylformamide (100 mL) was heated at 60° C. for 23 hours. The reaction mixture was poured into water (700 mL) and extracted with ethyl acetate (2×200 mL). The combined organic layers were dried, preadsorbed into silica gel, and purified by flash chromatography (8 cm diameter, elution with 2.5% methanol in dichloromethane). The resulting solid was stirred over hexane for 2 hours and filtered to yield a beige solid (800 mg, 31%, m.p. 117°-119° C.).

reactant | 1-(4-azatricyclo[4.3.1.1(3,8)]undec-4-yl)-3-bromo-1-propanone | 6.99 mmol, 2.00 g | C12CC3N(CC(CC(C1)C3)C2)C(CCBr)=O | C13H20BrNO
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 7.00 mmol, 1.66 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | diisopropylethylamine | 21 mmol, 3.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 700 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 1-(4-Azatricyclo[4.3.1.1(3,8)]undec-4-yl)-3-[4-(2-pyrimidinyl)-1-piperazinyl]-1-propanone | 800 mg, 31% | C12CC3N(CC(CC(C1)C3)C2)C(CCN2CCN(CC2)C2=NC=CC=N2)=O | C21H31N5O
